US08084448B2
D. 5-(2-Hydroxy-4-thiazol-2-ylmethylphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one
To a suspension of 5-(2-benzyloxy-4-thiazol-2-ylmethylphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (20 mg, 0.05 mmol) in CH2Cl2 (5 mL) at −10° C. is added BBr3 (0.2 mL, 1.0 M in CH2Cl2) and the yellow mixture is stirred at −10° C. for 30 min. The reaction is quenched with water and the aqueous layer is neutralized to pH=7 with 1N NaOH. The aqueous layer is then concentrated and the residue is purified by reverse phase HPLC (CH3CN/water/0.1% TFA) to give the title compound as a light yellow solid: 1H NMR (MeO4.16 (s, 2H), 4.18 (s, 2H), 6.68 (d, J=8 Hz, 1H), 7.73 (s, 1H), 7.28 (d, J=8 Hz, 1H), 7.34 (d, J=4 Hz, 1H) 7.56 (d, J=4 Hz, 1H); (M−1)−=324.

reactant | 5-(2-benzyloxy-4-thiazol-2-ylmethylphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.05 mmol, 20 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CC=1SC=CN1)N1CC(NS1(=O)=O)=O | C19H17N3O4S2
reactant | BBr3 | 1.0 M, 0.2 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-Hydroxy-4-thiazol-2-ylmethylphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | OC1=C(C=CC(=C1)CC=1SC=CN1)N1CC(NS1(=O)=O)=O | C12H11N3O4S2
